US07262212B2
1-Bromo-4-trifluoromethoxybenzene (5.3 g, 22.0 mmol) was dissolved in dry THF (70 ml) under a nitrogen atmosphere, and this solution was cooled to −60° C. n-Butyllithium (1.6 M) hexane solution (15 ml, 24.0 mmol) was added dropwise to the solution, and the mixture was allowed to reach a temperature of −30° C. and stirred for 1 hour. This mixture was cooled to −60° C. again, to which a solution of 1-benzylpiperidine-4-carboxylic acid N-methyl-N-methoxyamide (4.1 g, 15.6 mmol) prepared in Reference Example 147 in THF (10 ml) was added dropwise, and the mixture was stirred for 1 hour and then at 0° C. for 3 hours. The reaction mixture was poured into saturated ammonium chloride aqueous solution, and extracted with diethyl ether. The extract was washed with water and brine, dried over magnesium sulfate, and then filtered. The filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (n-hexane/ethyl acetate=4/1) to afford 1-benzyl-4-(4-trifluoromethoxybenzoyl)piperidine (4.8 g, yield 85%) as a pale yellow oil.

reactant | 1-Bromo-4-trifluoromethoxybenzene | 22.0 mmol, 5.3 g | BrC1=CC=C(C=C1)OC(F)(F)F | C7H4BrF3O
reactant | n-Butyllithium | 24.0 mmol, 1.6 M, 15 ml | C(CCC)[Li]
reactant | 1-benzylpiperidine-4-carboxylic acid N-methyl-N-methoxyamide | 15.6 mmol, 4.1 g | CN(C(=O)C1CCN(CC1)CC1=CC=CC=C1)OC | C15H22N2O2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 70 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 1-benzyl-4-(4-trifluoromethoxybenzoyl)piperidine | 4.8 g, yield 85% | C(C1=CC=CC=C1)N1CCC(CC1)C(C1=CC=C(C=C1)OC(F)(F)F)=O | C20H20F3NO2
